US04638075
2-Chloro-N-(7-methyl-1,2,4-triazolo[1,5-a]pyrimidin-2-yl)benzenesulfonamide
A sample of 3.0 ml (2.7 g, 20 mmol) of acetylacetaldehyde dimethylacetal was added to a solution of 2.74 g (10.0 mmol) of N-(5-amino-1,2,4-triazol-3-yl)-2-chlorobenzenesulfonamide in 20 ml of glacial acetic acid at reflux over 12 hours. After the addition was complete the reaction mixture was heated at reflux for 15 hours and cooled to room temperature. The solid which separated was collected by filtration, washed with acetic acid and dried to yield 1.92 g (59 percent) of the desired product as white solid, mp 267.5°-269° C. IR and 1H NMR spectra were in agreement with the assigned structure.

reactant | acetylacetaldehyde dimethylacetal | 20 mmol, 3.0 ml, 2.7 g | COC(CC(C)=O)OC | C6H12O3
reactant | N-(5-amino-1,2,4-triazol-3-yl)-2-chlorobenzenesulfonamide | 10.0 mmol, 2.74 g | NC1=NC(=NN1)NS(=O)(=O)C1=C(C=CC=C1)Cl | C8H8ClN5O2S
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 2-Chloro-N-(7-methyl-1,2,4-triazolo[1,5-a]pyrimidin-2-yl)benzenesulfonamide | 1.92 g, 59 percent | ClC1=C(C=CC=C1)S(=O)(=O)NC1=NN2C(N=CC=C2C)=N1 | C12H10ClN5O2S
